US04976770
Ethyl 12,12-Dimethyl-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylate
A mixture of 2,2'-isopropylidene bisphenol (3.65 g, 0.01594 mol), potassium hydroxide (2.68 g of 85 percent, 0.0478 mol) and dichloroacetic acid (1.31 ml, 0.01594 mol) in 65 ml cf isopropyl alcohol is heated at reflux. After 20 hours at reflux, an additional 1.79 g of 85 percent KOH and 1.31 ml of dichloroacetic acid are added and the reaction mixture is heated at reflux for 2 days. The reaction mixture is then diluted with 200 ml of H2O, acidified by the addition of concentrated HC1 (10 ml) and extracted into ethyl acetate. The ethyl acetate solution is washed with brine, dried over MgSO4 and concentrated. The residue is washed with petroleum ether to afford 3.7 g of crude product as a red-brown syrup. This material is then purified by an esterification-saponification-esterification procedure (esterification agent methanol, H2SO4). Dry column chromatography yields 0.97 g of crude product, which is saponified (NaOH, MeOH-H2O ), and purified by dry column chromatography to afford 0.60 g of a white solid. Esterification of this material (EtOH, H2SO4) and purification by preparative thin layer chromatography (elution with 1:4 ethyl acetate-hexanes) yields 0.25 g of product as a clear syrup: IR (neat) 3.34, 5.65, 6.95, 8.2, 13.2 cm-1; 1H NMR (CDCl3) δ1.28 (t, 3, CH2CH3), 1.75 and 1.9 (2s, 6, (CH3)2C), 4.24 (q, 2 CH2CH3), (s, 1, CH), 6.9-7.6 (m, 8, Ar--H); m/e 312.

reactant | 2,2'-isopropylidene bisphenol | 0.01594 mol, 3.65 g | C(C)(C)(C1=C(C=CC=C1)O)C1=C(C=CC=C1)O | C15H16O2
reactant | potassium hydroxide | 0.0478 mol, 2.68 g | [OH-].[K+]
reactant | dichloroacetic acid | 0.01594 mol, 1.31 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | KOH | 1.79 g | [OH-].[K+]
reactant | dichloroacetic acid | 1.31 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | NaOH | [OH-].[Na+]
reactant | isopropyl alcohol | 65 ml | C(C)(C)O | C3H8O
solvent | H2O | 200 ml | O | H2O
solvent | MeOH-H2O | CO.O
product | Ethyl 12,12-Dimethyl-12H-dibenzo[d,g][1,3]dioxocin-6-carboxylate | 0.60 g | CC1(C2=C(OC(OC3=C1C=CC=C3)C(=O)OCC)C=CC=C2)C | C19H20O4
